### PR TITLE
Proved sorted permutations are equal

### PR DESCRIPTION
**Pull request by MatthewDaggitt**
The main result. Would like to try and sneak this into v2.3 for @onestruggler.

Have also added an explanation of the choice of propositional permutation in `SortingAlgorithm` and a lemma that proves the setoid version.

### CODE REVIEW

File: src/Data/Fin/Properties.agda [hunk 1]
```diff
@@ -1038,6 +1062,30 @@ cantor-schröder-bernstein : ∀ {f : Fin m → Fin n} {g : Fin n → Fin m} →
...
+... | yes  result = result
+... | no  ¬result = contradiction
+  strictlyContractive
+  (injective⇒nonStrictlyContractive f f-injective i)
+  where
+  strictlyContractive : ∀ j → j ≤ i → f j < i
+  strictlyContractive j j≤i with i ≤? f j
+  ... | yes i≤fj = contradiction (j , j≤i , i≤fj) ¬result
+  ... | no  i≰fj = ℕ.≰⇒> i≰fj
+
```
Comment (jamesmckinna) [inline src/Data/Fin/Properties.agda]: Downstream, after resolving the issues around #2744, I'd hope that these could be read off from a single appeal to `min?` to construct a suitable minimal counterexample (for `existsPivot`) or else rule out the `Universal` case branch by contradiction with `nonStrictlyContractive`. See also #2746 for the use of `pigeonhole` to prove `injective⇒≤`, so some simplification in the proof of `nonStrictlyContractive` might also be possible?

File: CHANGELOG.md [hunk 2]
```diff
@@ -243,17 +243,23 @@ Additions to existing modules
...
 
 * In `Data.Fin.Properties`:
   ```agda
-  cast-involutive : .(eq₁ : m ≡ n) .(eq₂ : n ≡ m) → ∀ k → cast eq₁ (cast eq₂ k) ≡ k
+  cast-involutive                  : .(eq₁ : m ≡ n) .(eq₂ : n ≡ m) → ∀ k → cast eq₁ (cast eq₂ k) ≡ k
+  inject!-injective                : Injective _≡_ _≡_ inject!
+  inject!-<                        : (k : Fin′ i) → inject! k < i
+  lower-injective                  : lower i i<n ≡ lower j j<n → i ≡ j
+  injective⇒nonStrictlyContractive : ∀ (f : Fin n → Fin m) → Injective _≡_ _≡_ f → ∀ i → ¬ (∀ j → j ≤ i → f j < i)
+  injective⇒existsPivot            : ∀ (f : Fin n → Fin m) → Injective _≡_ _≡_ f → ∀ (i : Fin n) → ∃ λ (j : Fin n) → j ≤ i × i ≤ f j
```
Comment (jamesmckinna) [inline CHANGELOG.md]: Any particular reason (beyond 'redundant' documentation for the sake of the reader) to include the types of `i` and `j` here? They're inferrable form the declared type of `f`, or not?

File: src/Data/Fin/Base.agda [hunk 3]
```diff
@@ -121,6 +121,10 @@ lower₁ {zero}  zero    ne = contradiction refl ne
 lower₁ {suc n} zero    _  = zero
 lower₁ {suc n} (suc i) ne = suc (lower₁ i (ne ∘ cong suc))
 
+lower : ∀ (i : Fin m) → .(toℕ i ℕ.< n) → Fin n
```
Comment (jamesmckinna) [inline src/Data/Fin/Base.agda:124]: As on previous iterations: suggest deprecating/redefining `lower₁` in terms of this new definition, to avoid redundant duplication?

UPDATED: oh, I see... it would involve importing `Data.Nat.Properties` in order to fix up the precondition, and that might be considered A Bad Thing...

File: src/Data/List/Relation/Unary/Sorted/TotalOrder/Properties.agda [hunk 4]
```diff
@@ -150,3 +164,48 @@ module _ (O : TotalOrder a ℓ₁ ℓ₂) {P : Pred _ p} (P? : Decidable P) wher
...
+      (↗↭↗⇒≤ (↭-sym xs↭ys) ys↗ xs↗ (P.sym i≡j))
+      (↗↭↗⇒≤ xs↭ys  xs↗ ys↗ i≡j))
+    where
+    ↗↭↗⇒≤ : ∀ {xs ys}
+              (xs↭ys : xs ↭ ys) →
+              Sorted O xs → Sorted O ys →
+              ∀ {i j} → toℕ i ≡ toℕ j →
+              lookup ys j ≤ lookup xs i
+    ↗↭↗⇒≤ {xs} {ys} xs↭ys xs↗ ys↗ {i} {j} i≡j
+      with Fin.injective⇒existsPivot _ (inverseʳ⇒injective _ (Inverse.inverseʳ (toFin xs↭ys))) i
```
Comment (jamesmckinna) [inline src/Data/List/Relation/Unary/Sorted/TotalOrder/Properties.agda]:
```suggestion
      with Fin.injective⇒existsPivot _ (inverseʳ⇒injective _ (Inverse.inverseʳ (onIndices xs↭ys))) i
```
???

File: src/Data/List/Relation/Unary/Sorted/TotalOrder/Properties.agda [hunk 5]
```diff
@@ -150,3 +164,48 @@ module _ (O : TotalOrder a ℓ₁ ℓ₂) {P : Pred _ p} (P? : Decidable P) wher
...
+    ... | (k , k≤i , i≤π[k]) = begin
+      lookup ys j                     ≤⟨ lookup-mono-≤ O ys↗ (P.subst (ℕ._≤ _) i≡j i≤π[k]) ⟩
+      lookup ys (toFin xs↭ys ⟨$⟩ʳ k)  ≈⟨ toFin-lookup xs↭ys k ⟨
```
Comment (jamesmckinna) [inline src/Data/List/Relation/Unary/Sorted/TotalOrder/Properties.agda]: Ditto.
```suggestion
      lookup ys (onIndices xs↭ys ⟨$⟩ʳ k)  ≈⟨ onIndices-lookup xs↭ys k ⟨
```

File: src/Data/List/Relation/Unary/Sorted/TotalOrder/Properties.agda (hunk 4 above)
Comment (jamesmckinna) [reply src/Data/List/Relation/Unary/Sorted/TotalOrder/Properties.agda]: Also, there's no need for `with` here: the pattern is irrefutable, and computable with a pattern-matching `let`, so...

**Review by jamesmckinna — APPROVED** [review]
Various nitpicks and bugfixes suggested, but otherwise: good to go!

File: src/Data/Fin/Base.agda [hunk 6]
```diff
@@ -121,6 +121,10 @@ lower₁ {zero}  zero    ne = contradiction refl ne
...
+lower {suc _} {suc n} zero    leq = zero
+lower {suc _} {suc n} (suc i) leq = suc (lower i (ℕ.s≤s⁻¹ leq))
```
Comment (jamesmckinna) [inline src/Data/Fin/Base.agda]:
```suggestion
lower {n = suc _} zero    leq = zero
lower {n = suc _} (suc i) leq = suc (lower i (ℕ.s≤s⁻¹ leq))
```
I don't think there's any need to involve the `m` binding in the definition, and named telescopes are (typically) more robust in the face of modifications to `variable` declarations etc.

File: src/Data/Fin/Properties.agda [hunk 7]
```diff
@@ -537,6 +550,17 @@ inject₁≡⇒lower₁≡ : ∀ {i : Fin n} {j : Fin (ℕ.suc n)} →
...
 
+------------------------------------------------------------------------
+-- lower
+------------------------------------------------------------------------
+
+lower-injective : ∀ {m n} (i j : Fin m)
+                  .{i<n : toℕ i ℕ.< n} .{j<n : toℕ j ℕ.< n}  →
+                  lower i i<n ≡ lower j j<n → i ≡ j
+lower-injective {suc _} {suc n} zero    zero    eq = refl
+lower-injective {suc _} {suc n} (suc i) (suc j) eq =
```
Comment (jamesmckinna) [inline src/Data/Fin/Properties.agda]: Ditto re: avoiding the `m` binding
```suggestion
lower-injective {n = suc n} zero    zero    eq = refl
lower-injective {n = suc n} (suc i) (suc j) eq =
```

File: CHANGELOG.md [hunk 8]
```diff
@@ -243,17 +243,23 @@ Additions to existing modules
...
   _≰_ : Rel (Fin n) 0ℓ
   _≮_ : Rel (Fin n) 0ℓ
+  lower : ∀ (i : Fin m) → .(toℕ i ℕ.< n) → Fin n
   ```
 
 * In `Data.Fin.Permutation`:
   ```agda
   cast-id : .(m ≡ n) → Permutation m n
-  swap : Permutation m n → Permutation (suc (suc m)) (suc (suc n))
+  inject!-injective : swap : Permutation m n → Permutation (suc (suc m)) (suc (suc n))
```
Comment (jamesmckinna) [inline CHANGELOG.md]: What happened here?

Comment (JacquesCarette) [reply CHANGELOG.md]: As an entirely separate thing: `2+` ?

**Review by JacquesCarette — APPROVED** [review]
I have no comments beyond James'.

File: CHANGELOG.md (hunk 2 above)
Comment (jamesmckinna) [reply CHANGELOG.md]: or, alternatively: make the quantification over `i` and `j` carry explicit types, but make `f` *implicit*? Ah... no. Codomain `Fin m` is arbitrary, but `i j : Fin n`!?

File: src/Data/Fin/Properties.agda [hunk 9]
```diff
@@ -537,6 +550,17 @@ inject₁≡⇒lower₁≡ : ∀ {i : Fin n} {j : Fin (ℕ.suc n)} →
                   (n≢j : n ≢ toℕ j) → inject₁ i ≡ j → lower₁ j n≢j ≡ i
 inject₁≡⇒lower₁≡ n≢j i≡j = inject₁-injective (trans (inject₁-lower₁ _ n≢j) (sym i≡j))
 
+------------------------------------------------------------------------
+-- lower
+------------------------------------------------------------------------
+
+lower-injective : ∀ {m n} (i j : Fin m)
```
Comment (jamesmckinna) [inline src/Data/Fin/Properties.agda]:
```suggestion
lower-injective : ∀ (i j : Fin m)
```
`m` and `n` are already governed by the top-level `variable` declarations.

File: src/Data/Fin/Properties.agda (hunk 1 above)
Comment (jamesmckinna) [reply src/Data/Fin/Properties.agda]: Voil`a:
```suggestion
injective⇒existsPivot : ∀ {f : Fin n → Fin m} → Injective _≡_ _≡_ f →
                        ∀ (i : Fin n) → ∃[ j ] j ≤ i × i ≤ f j
injective⇒existsPivot {n = suc n} {f = f} f-injective i
  with any? (λ j → j ≤? i ×-dec i ≤? f j)
... | yes result = result
... | no ¬result = contradiction (injective⇒≤ h-injective) ℕ.1+n≰n
  where
  fj<i : (j : Fin′ (suc i)) → f (inject! j) < i
  fj<i j with f (inject! j) <? i
  ... | yes fj<i = fj<i
  ... | no  fj≮i = contradiction (_  , ℕ.s≤s⁻¹ (inject!-< j) , ℕ.≮⇒≥ fj≮i) ¬result
  
  h : Fin′ (suc i) → Fin′ i
  h j = lower (f (inject! j)) (fj<i j)

  h-injective : Injective _≡_ _≡_ h
  h-injective = inject!-injective ∘ f-injective ∘ lower-injective _ _

injective⇒nonStrictlyContractive : ∀ {f : Fin n → Fin m} → Injective _≡_ _≡_ f →
                                   ∀ i → ¬ (∀ j → j ≤ i → f j < i)
injective⇒nonStrictlyContractive f-injective i j≤i⇒fj<i =
  let j , j≤i , i≤fj = injective⇒existsPivot f-injective i
  in contradiction (j≤i⇒fj<i j j≤i) (ℕ.≤⇒≯ i≤fj)
```

I argue as follows:
* `injective⇒nonStrictlyContractive`, which I leave in here for API faithfulness, probably doesn't even need to be in the PR, as it now arises an 'easy' consequence by `contradiction` from the much more interesting (positive!) statement `injective⇒existsPivot`
* the proof that you do offer of this latter has some very weird contortions/convolutions via all kinds of `contradiction`s, when the function `h`, and the proof that it is `Injective`,  at the heart of the main argument, actually becomes considerably simpler once it suffices to define it, towards the eventual contradiction, *only* within the scope of `¬result`... whence the `fj<i` lemma becomes provable outright.

NB. `f` can now be implicitly quantified? (and: is!)

**Review by jamesmckinna — CHANGES_REQUESTED** [review]
Sorry to go back on my original approval, but I think the new proof structure is... better!?

File: CHANGELOG.md [hunk 10]
```diff
@@ -243,17 +243,23 @@ Additions to existing modules
...
   ```
 
 * In `Data.Fin.Properties`:
   ```agda
-  cast-involutive : .(eq₁ : m ≡ n) .(eq₂ : n ≡ m) → ∀ k → cast eq₁ (cast eq₂ k) ≡ k
+  cast-involutive                  : .(eq₁ : m ≡ n) .(eq₂ : n ≡ m) → ∀ k → cast eq₁ (cast eq₂ k) ≡ k
+  inject!-injective                : Injective _≡_ _≡_ inject!
+  inject!-<                        : (k : Fin′ i) → inject! k < i
+  lower-injective                  : lower i i<n ≡ lower j j<n → i ≡ j
+  injective⇒nonStrictlyContractive : ∀ (f : Fin n → Fin m) → Injective _≡_ _≡_ f → ∀ i → ¬ (∀ j → j ≤ i → f j < i)
```
Comment (jamesmckinna) [inline CHANGELOG.md]: Suggest leaving this out of the PR: as above, it's an easy corollary of `injective⇒existsPivot` after re-ordering.

File: src/Data/Fin/Base.agda (hunk 3 above)
Comment (jamesmckinna) [reply src/Data/Fin/Base.agda:124]: Accordingly, we should perhaps instead consider (an issue about) refactoring to deprecate it, and rewrite (a lot of!?) code which uses it...

File: src/Data/Fin/Properties.agda (hunk 1 above)
Comment (jamesmckinna) [reply src/Data/Fin/Properties.agda]: (And, it turned out that `searchMin` wasn't necessary after all..)

**Comment by JacquesCarette** [comment]
Definitely agree that your proof of `injective⇒existsPivot` is much nicer.

Minor nit: `f∘inject!` instead of `h`? Then the 'narrative' of the proof would be easier to follow top-down, instead of being forced to reconstruct it by reading it bottom-up.

**Comment by jamesmckinna** [comment]
@JacquesCarette if @MatthewDaggitt goes ahead with my proposed changes, then I think your function name change makes sense, but perhaps at the cost of what you then choose to call what currently is `h-injective`...so I'll leave such last things up to him... ;-)

**Comment by jamesmckinna** [comment]
> Definitely agree that your proof of `injective⇒existsPivot` is much nicer.
> 
> Minor nit: `f∘inject!` instead of `h`? Then the 'narrative' of the proof would be easier to follow top-down, instead of being forced to reconstruct it by reading it bottom-up.

`lower∘f∘inject!`? I'd almost be tempted to call it `↓f↑`? Or... `f′` for '`f` modified'?

**Comment by JacquesCarette** [comment]
I think `lower` gets elided a lot, and that's fine with me. So `f∘inject!` seems to capture the important meaning.

File: src/Data/Fin/Properties.agda (hunk 1 above)
Comment (MatthewDaggitt) [reply src/Data/Fin/Properties.agda]: Nice simplification, will remove `injective⇒nonStrictlyContractive`

File: CHANGELOG.md (hunk 2 above)
Comment (MatthewDaggitt) [reply CHANGELOG.md]: Have got rid of annotation on `j` but `i` has to stay.

File: CHANGELOG.md [hunk 11]
```diff
@@ -243,17 +243,23 @@ Additions to existing modules
...
```
Comment (jamesmckinna) [inline CHANGELOG.md]: Need to remove this!
```suggestion
```

File: src/Data/Fin/Properties.agda [hunk 12]
```diff
@@ -1038,6 +1062,24 @@ cantor-schröder-bernstein : ∀ {f : Fin m → Fin n} {g : Fin n → Fin m} →
...
+  fj<i : (j : Fin′ (suc i)) → f (inject! j) < i
+  fj<i j with f (inject! j) <? i
+  ... | yes fj<i = fj<i
+  ... | no  fj≮i = contradiction (_  , ℕ.s≤s⁻¹ (inject!-< j) , ℕ.≮⇒≥ fj≮i) ¬result
+
+  f∘inject! : Fin′ (suc i) → Fin′ i
+  f∘inject! j = lower (f (inject! j)) (fj<i j)
+
+  f∘inject!-injective : Injective _≡_ _≡_ f∘inject!
+  f∘inject!-injective = inject!-injective ∘ f-injective ∘ lower-injective _ _
```
Comment (jamesmckinna) [inline src/Data/Fin/Properties.agda:1081]: Agree. You and @JacquesCarette are right re: naming.

File: src/Data/List/Relation/Unary/Sorted/TotalOrder/Properties.agda [hunk 13]
```diff
@@ -14,20 +14,34 @@ open import Data.List.Relation.Unary.AllPairs using (AllPairs)
...
 open import Level using (Level)
-open import Relation.Binary.Core using (_Preserves_⟶_)
+open import Relation.Binary.Core using (_Preserves_⟶_; Rel)
 open import Relation.Binary.Bundles using (TotalOrder; DecTotalOrder; Preorder)
 import Relation.Binary.Properties.TotalOrder as TotalOrderProperties
+import Relation.Binary.Reasoning.PartialOrder as PosetReasoning
 open import Relation.Unary using (Pred; Decidable)
+open import Relation.Nullary using (contradiction)
 open import Relation.Nullary.Decidable using (yes; no)
+open import Relation.Binary.PropositionalEquality as P using (_≡_)
```
Comment (jamesmckinna) [inline src/Data/List/Relation/Unary/Sorted/TotalOrder/Properties.agda]: Convention dictates:
* narrow `import` to `Core` (only `sym` and `subst` get used?)
* relation symbol as qualified module import name.

Accordingly,
```suggestion
open import Relation.Binary.PropositionalEquality.Core as ≡ using (_≡_)
```
with knock-on changes to subsequent `P.` throughout.

File: src/Data/List/Relation/Unary/Sorted/TotalOrder/Properties.agda [hunk 14]
```diff
@@ -150,3 +164,48 @@ module _ (O : TotalOrder a ℓ₁ ℓ₂) {P : Pred _ p} (P? : Decidable P) wher
...
+  open PermutationProperties Eq.setoid
+  open PosetReasoning poset
+
+  -- Proof that any two sorted lists that are a permutation of each
+  -- other are pointwise equal
+  ↗↭↗⇒≋ : ∀ {xs ys} → Sorted O xs → Sorted O ys → xs ↭ ys → xs ≋ ys
+  ↗↭↗⇒≋ {xs} {ys} xs↗ ys↗ xs↭ys = Pointwise.lookup⁻
+    (xs↭ys⇒|xs|≡|ys| xs↭ys)
+    (λ i≡j → antisym
+      (↗↭↗⇒≤ (↭-sym xs↭ys) ys↗ xs↗ (P.sym i≡j))
```
Comment (jamesmckinna) [inline src/Data/List/Relation/Unary/Sorted/TotalOrder/Properties.agda]:
```suggestion
      (↗↭↗⇒≤ (↭-sym xs↭ys) ys↗ xs↗ (≡.sym i≡j))
```

File: src/Data/List/Relation/Unary/Sorted/TotalOrder/Properties.agda [hunk 15]
```diff
@@ -150,3 +164,48 @@ module _ (O : TotalOrder a ℓ₁ ℓ₂) {P : Pred _ p} (P? : Decidable P) wher
...
+    where
+    ↗↭↗⇒≤ : ∀ {xs ys}
+              (xs↭ys : xs ↭ ys) →
+              Sorted O xs → Sorted O ys →
+              ∀ {i j} → toℕ i ≡ toℕ j →
+              lookup ys j ≤ lookup xs i
+    ↗↭↗⇒≤ {xs} {ys} xs↭ys xs↗ ys↗ {i} {j} i≡j
+      with Fin.injective⇒existsPivot (inverseʳ⇒injective _ (Inverse.inverseʳ (onIndices xs↭ys))) i
+    ... | (k , k≤i , i≤π[k]) = begin
+      lookup ys j                         ≤⟨ lookup-mono-≤ O ys↗ (P.subst (ℕ._≤ _) i≡j i≤π[k]) ⟩
```
Comment (jamesmckinna) [inline src/Data/List/Relation/Unary/Sorted/TotalOrder/Properties.agda]:
```suggestion
      lookup ys j                         ≤⟨ lookup-mono-≤ O ys↗ (≡.subst (ℕ._≤ _) i≡j i≤π[k]) ⟩
```

**Review by jamesmckinna — APPROVED** [review]
All looks great.
Last round of nitpicks: `CHANGELOG` is the one that really needs fixing

File: CHANGELOG.md (hunk 11 above)
Comment (jamesmckinna) [reply CHANGELOG.md]: With knock-on changes to alignment!

**Comment by jamesmckinna** [comment]
:tada:  Very nice work!
